US04219559
A mixture of 5.5 parts of N-[1-(1H-benzimidazol-2-yl)-4-piperidinyl]-1-(phenylmethyl)-1H-benzimidazol-2-amine dinitrate, 1.5 parts of 1-(chloromethyl)-4-fluorobenzene, 5 parts of sodium carbonate, 0.1 parts of potassium iodide and 120 parts of 4-methyl-2-pentanone is stirred and refluxed overnight using a water-separator. The reaction mixture is poured onto water and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane. The product is filtered off and dried, yielding 1.5 parts (28.3%) of N-{1-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-yl]-4-piperidinyl}-1-(phenylmethyl)-1H-benzimidazol-2-amine; mp. 163.9° C.

reactant | N-[1-(1H-benzimidazol-2-yl)-4-piperidinyl]-1-(phenylmethyl)-1H-benzimidazol-2-amine dinitrate | [N+](=O)(O)[O-].[N+](=O)(O)[O-].N1C(=NC2=C1C=CC=C2)N2CCC(CC2)NC2=NC1=C(N2CC2=CC=CC=C2)C=CC=C1
reactant | 1-(chloromethyl)-4-fluorobenzene | ClCC1=CC=C(C=C1)F | C7H6ClF
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | N-{1-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-yl]-4-piperidinyl}-1-(phenylmethyl)-1H-benzimidazol-2-amine | 28.3% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)N2CCC(CC2)NC2=NC1=C(N2CC2=CC=CC=C2)C=CC=C1 | C33H31FN6
